US04049807
24.0 g (0.1 mol) of 2.4-dichloro-phenyl-β-chloro-ethylketone (95%) are heated under reflux with 7.6 g (0.1 mol) of thiourea in 100 ml of ethanol. After approximately 3.5 hours, the reaction product has separated off as colourless crystals; 23.7 g (approximately 85% of the theory) of 2-amino-4-(2,4-dichloro-phenyl)-1,3-thiazine-hydrochloride are obtained as colourless crystals with a melting point of 236° C.

reactant | 2.4-dichloro-phenyl-β-chloro-ethylketone | 0.1 mol, 24.0 g | ClC1=C(C=CC(=C1)Cl)C(CC(=O)CC(C1=C(C=C(C=C1)Cl)Cl)Cl)Cl | C17H12Cl6O
reactant | thiourea | 0.1 mol, 7.6 g | NC(=S)N | CH4N2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-4-(2,4-dichloro-phenyl)-1,3-thiazine-hydrochloride | Cl.NC1SC=CC(=N1)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C10H8Cl2N2S.ClH/c11-6-1-2-7(8(12)5-6)9-3-4-15-10(13)14-9;/h1-5,10H,13H2;1H
